US06187769B1
Synthesis of 4-(4-bromobutyl)-4,5-dihydro-1,4-benzoxazepin-5-one
1.0 g of 4,5-dihydro-1,4-benzoxazepin-5-one was dissolved in 50 ml of dimethylformamide, then 298 mg (1.2 equivalents) of 60% sodium hydride was added under ice cooling. This was agitated for 30 minutes, then 4.7 g (3 equivalents) of 1,4-dibromobutane was added and the resultant mixture was agitated at room temperature for 6 hours.

reactant | 4,5-dihydro-1,4-benzoxazepin-5-one | 1.0 g | O1C=CNC(C2=C1C=CC=C2)=O | C9H7NO2
reactant | sodium hydride | 298 mg, 1.2 equivalents | [H-].[Na+]
reactant | 1,4-dibromobutane | 4.7 g, 3 equivalents | BrCCCCBr | C4H8Br2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(4-bromobutyl)-4,5-dihydro-1,4-benzoxazepin-5-one | BrCCCCN1C=COC2=C(C1=O)C=CC=C2 | C13H14BrNO2
